US06632816B1
Preparation of (2S,4S)-2-Amino-N-{4-[(4-amino-benzenesulfonyl)-isobutyl-amino]-5-hydroxy-pentyl}-3,3-diphenyl-propionamide (MX-198)
To 0.59 g of (1S,4S)-(1-{4-[(4-amino-benzenesulfonyl)-isobutyl-amino]-5-hydroxy-pentylcarbamoyl}-2,2-diphenyl-ethyl)-carbamic acid tert-butyl ester in 5 mL of dichloromethane under stirring were added 5 mL of trifluoroacetic acid. The reaction was followed by TLC and upon disappearance of the starting material the mixture was evaporated in vacuo. The residue was taken up in ethyl acetate and the organic layer washed with aqueous 1.0N sodium hydroxide, with brine, dried over magnesium sulfate and filtered. The filtrate was evaporated and then placed under mechanical vacuum overnight to provide 0.49 g (94%) of title compound as a light brown foam. The product was used without further purification to give a series of diphenyl-propionamide derived tests compounds.

reactant | (1S,4S)-(1-{4-[(4-amino-benzenesulfonyl)-isobutyl-amino]-5-hydroxy-pentylcarbamoyl}-2,2-diphenyl-ethyl)-carbamic acid tert-butyl ester | 0.59 g | C(C)(C)(C)OC(N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(NCCC[C@@H](CO)N(CC(C)C)S(=O)(=O)C1=CC=C(C=C1)N)=O)=O | C35H48N4O6S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S,4S)-2-Amino-N-{4-[(4-amino-benzenesulfonyl)-isobutyl-amino]-5-hydroxy-pentyl}-3,3-diphenyl-propionamide | 0.49 g, 94% | N[C@H](C(=O)NCCC[C@@H](CO)N(CC(C)C)S(=O)(=O)C1=CC=C(C=C1)N)C(C1=CC=CC=C1)C1=CC=CC=C1 | C30H40N4O4S
